US07435837B2
(±)-{[7-(2,6-dichlorophenyl)-5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.073 g, 78%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(2,6-dichlorophenyl) 5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.12 g, 0.26 mmol) and methylamine (0.080 g, 2.6 mmol). mp 192-195° C.

reactant | (±)-[7-(2,6-dichlorophenyl) 5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.26 mmol, 0.12 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2Cl)Cl)C | C23H20Cl2O4S
reactant | methylamine | 2.6 mmol, 0.080 g | CN | CH5N
product | (±)-{[7-(2,6-dichlorophenyl)-5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | ClC1=C(C(=CC=C1)Cl)C1=CC(=CC=2CC(OC21)CNC)C | C17H17Cl2NO
